US07781478B2
1-Ethyl-2-(4-hydroxy-phenyl)-6-methoxy-1H-indole-3-carbonitrile (40 mg, 0.14 mmol), prepared as in example 1Ga step B, is combined with K2CO3 (77 mg, 0.56 mmol), bromoethyl methyl ether (26 μL, 0.28 mmol), and DMF (450 μL). This is stirred at room temperature for 1 hour, and then at 75° C. for 3 hours. The reaction mixture is then partitioned between H2O and EtOAc. The organic layer is dried and concentrated. Purification by silica gel chromatography (CH2Cl2, 0-5% EtOAc) yields 1-ethyl-6-methoxy-2-[4-(2-methoxyethoxy)-phenyl]-1H-indole-3-carbonitrile (44 mg, 90%) as a white solid.

reactant | 1-Ethyl-2-(4-hydroxy-phenyl)-6-methoxy-1H-indole-3-carbonitrile | 0.14 mmol, 40 mg | C(C)N1C(=C(C2=CC=C(C=C12)OC)C#N)C1=CC=C(C=C1)O | C18H16N2O2
reactant | K2CO3 | 0.56 mmol, 77 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | bromoethyl methyl ether | 0.28 mmol, 26 μL | COCCBr | C3H7BrO
solvent | DMF | 450 μL | CN(C)C=O | C3H7NO
product | 1-ethyl-6-methoxy-2-[4-(2-methoxyethoxy)-phenyl]-1H-indole-3-carbonitrile | 44 mg, 90% | C(C)N1C(=C(C2=CC=C(C=C12)OC)C#N)C1=CC=C(C=C1)OCCOC | C21H22N2O3
